US04001419
A mixture of 4-methoxyxanthene-9-spiro-4'-piperidine (2.0 g.), 1-bromo-3-methylbut-2-ene (1.15 g.), sodium bicarbonate (0.59 g.) and dimethylformamide (20 ml.) is heated under reflux for 4 hours. The mixture is cooled, poured into water and extracted with chloroform. The chloroform extract is washed with water, dried with MgSO4 and evaporated to give a gummy residue. The residue is dissolved in isopropanol and treated with ethereal hydrochloric acid. The residue is recrystallised from isopropanol-ether to give 1'-(3-methylbut-2-enyl)-4-methoxyxanthene-9-spiro-4'-piperidine hydrochloride, m.p. 247°-249° C.

reactant | 4-methoxyxanthene-9-spiro-4'-piperidine | 2.0 g | COC1=CC=CC2=C1OC1=CC=CC=C1C21CCNCC1 | C18H19NO2
reactant | 1-bromo-3-methylbut-2-ene | 1.15 g | BrCC=C(C)C | C5H9Br
reactant | sodium bicarbonate | 0.59 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1'-(3-methylbut-2-enyl)-4-methoxyxanthene-9-spiro-4'-piperidine hydrochloride | Cl.CC(=CCN1CCC2(CC1)C1=CC=CC=C1OC=1C(=CC=CC12)OC)C | InChI=1S/C23H27NO2.ClH/c1-17(2)11-14-24-15-12-23(13-16-24)18-7-4-5-9-20(18)26-22-19(23)8-6-10-21(22)25-3;/h4-11H,12-16H2,1-3H3;1H
